US04255436
2-oxo-4,5,5-trimethyl-3-thiazoline-oxime was reacted with ethyl isocyanate as described in Example 4 to yield 2-oxo-4,5,5-trimethyl-3-thiazoline-O-(ethylcarbamoyl)-oxime, m.p. 84°-86° C.

reactant | 2-oxo-4,5,5-trimethyl-3-thiazoline-oxime | N(O)=C1SC(C(=N1)C)(C)C | C6H10N2OS
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
product | 2-oxo-4,5,5-trimethyl-3-thiazoline-O-(ethylcarbamoyl)-oxime | C(C)NC(=O)ON=C1SC(C(=N1)C)(C)C | C9H15N3O2S
